US07074819B2
Step 2) Synthesis of t-butyl 4-{[3,5-bis(t-butyl)phenyl]methyl}piperazine carboxylate
3,5-Bis(t-butyl)-1-(bromomethyl)benzene (170 mg, 0.60 mmol), t-butyl piperazine carboxylate (102 mg, 0.55 mmol) and potassium carbonate (151 mg, 1.10 mmol) were dissolved in a solvent mixture of acetone (2 ml) and DMF (0.2 ml), and the mixture was stirred overnight while heated under reflux. The reaction mixture was extracted with ethyl acetate, dried over sodium sulfate, and then the filtrate was evaporated under reduced pressure. The concentrate was subjected to silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give 120 mg (yield: 56%) of the title compound as a white solid.

reactant | 3,5-Bis(t-butyl)-1-(bromomethyl)benzene | 0.60 mmol, 170 mg | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)CBr | C15H23Br
reactant | t-butyl piperazine carboxylate | 0.55 mmol, 102 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 1.10 mmol, 151 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | t-butyl 4-{[3,5-bis(t-butyl)phenyl]methyl}piperazine carboxylate | 120 mg, yield: 56% | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)CN1CCN(CC1)C(=O)OC(C)(C)C | C24H40N2O2
